US04226869
7-Chloro-10-[(4-diethylaminobutyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride
A mixture of 2.8 g. of 7,10-dichloro-2-methoxypyrido[3,2-b]quinoline, 1.5 g. of 4-diethylaminobutylamine and 6.5 g. of phenol is heated at 100° C. for 3 hours. The reaction is cooled, 20 ml. of ethanol is added and this mixture is poured into a mixture of 200 ml. of acetone and 2.5 ml. of concentrated hydrochloric acid. The yellow solic is collected, air-dried and recrystallized from ethanol, giving the desired product, mp. 246°-274° C. (dec.).

reactant | 7,10-dichloro-2-methoxypyrido[3,2-b]quinoline | ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)Cl | C13H8Cl2N2O
reactant | 4-diethylaminobutylamine | C(C)N(CCCCN)CC | C8H20N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 7-Chloro-10-[(4-diethylaminobutyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride | Cl.Cl.ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)NCCCCN(CC)CC | InChI=1S/C21H27ClN4O.2ClH/c1-4-26(5-2)13-7-6-12-23-20-16-9-8-15(22)14-18(16)24-17-10-11-19(27-3)25-21(17)20;;/h8-11,14H,4-7,12-13H2,1-3H3,(H,23,24);2*1H
